US07468380B2
N1-Methyl-5-(2-(((4-(pyrrolidin-1-yl)piperidin-1-yl)carbonyl)amino)pyridin-4-yloxy)-1H-1-indolecarboxamide
Phenyl N-(4-(1-(methylamino)carbonyl-1H-5-indolyloxy)-2-pyridyl)-N-(phenoxycarbonyl)carbamate (12.1 g, 23.2 mmol) synthesized in Production example 5-2 was dissolved in dimethylformamide (150 ml); 4-(1-pyrrolidinyl)piperidine (14.4 g, 93.3 mmol) was added thereto; and the reaction mixture was stirred at room temperature for 16 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine and concentrated to about 100 ml. The residue was allowed to be kept cool at 5° C. for overnight to precipitate crystals. The crystals were filtered off, washed with ethyl acetate to yield the title compound (7.8 g, 16.9 mmol, 73%) as white crystals.

reactant | Phenyl N-(4-(1-(methylamino)carbonyl-1H-5-indolyloxy)-2-pyridyl)-N-(phenoxycarbonyl)carbamate | 23.2 mmol, 12.1 g | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N(C(OC1=CC=CC=C1)=O)C(=O)OC1=CC=CC=C1 | C29H22N4O6
reactant | 4-(1-pyrrolidinyl)piperidine | 93.3 mmol, 14.4 g | N1(CCCC1)C1CCNCC1 | C9H18N2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | N1-Methyl-5-(2-(((4-(pyrrolidin-1-yl)piperidin-1-yl)carbonyl)amino)pyridin-4-yloxy)-1H-1-indolecarboxamide | 16.9 mmol, 7.8 g, 73% | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)N1CCC(CC1)N1CCCC1 | C25H30N6O3
